US05733913
6-(2,3,6-Trichloro-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
The title compound was prepared according to Example 1, starting from 1.0 g of (2,3,6-trichloro)-phenyl-acetonitrile and 0.6 g of 2,4-diamino-5-pyrimidine-carboxaldehyde; mp 320°-322° C.

reactant | (2,3,6-trichloro)-phenyl-acetonitrile | 1.0 g | ClC1=C(C(=CC=C1Cl)Cl)CC#N | C8H4Cl3N
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | 0.6 g | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-(2,3,6-Trichloro-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | ClC1=C(C(=CC=C1Cl)Cl)C1=CC2=C(N=C(N=C2)N)N=C1N | C13H8Cl3N5
